US07572809B2
h) Preparation of 1-Chloro-6-methoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinoline-7-carboxylic acid dimethylamide
A mixture of 1-Hydroxy-6-methoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinoline-7-carboxylic acid dimethylamide (0.1 g, 0.29 mmol) in POCl3 (4 ml) was sealed in microwave process vial (5 ml). The mixture was heated at 130° C. for 30 minutes under microwave irradiation. The mixture was concentrated, and the residue was treated with 1 ml MeOH. After stirred for half an hour at room temperature, the solid was collected and dried to give desired product (0.072 g, 70%). LC-MS: m/e 360 (MH+).

reactant | 1-Hydroxy-6-methoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinoline-7-carboxylic acid dimethylamide | 0.29 mmol, 0.1 g | CN(C(=O)C1=C(C=C2C=C(N=C(C2=C1)O)NC1=NNC(=C1)C)OC)C | C17H19N5O3
reactant | POCl3 | 4 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 1-Chloro-6-methoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinoline-7-carboxylic acid dimethylamide | 0.072 g, 70% | CN(C(=O)C1=C(C=C2C=C(N=C(C2=C1)Cl)NC1=NNC(=C1)C)OC)C | C17H18ClN5O2
